US07196088B2
5-Amino-2-benzyl-2H-isoquinolin-1-one (0.687 g, 2.75 mmol)) from step 4 was combined with excess bis-(2-chloroethyl)-amine hydrochloride and heated to a melt for 5 minutes. TLC analysis showed one major product and several minor side products. The reaction mixture was chromatographed over silica gel (CH2Cl2/MeOH, 95:5) to afford 2-benzyl-5-piperazin-1-yl-2H-isoquinolin-1-one (0.103 mg, 0.32 mmol); M+H=320.

reactant | 5-Amino-2-benzyl-2H-isoquinolin-1-one | 2.75 mmol, 0.687 g | NC1=C2C=CN(C(C2=CC=C1)=O)CC1=CC=CC=C1 | C16H14N2O
reactant | bis-(2-chloroethyl)-amine hydrochloride | Cl.ClCCNCCCl
product | 2-benzyl-5-piperazin-1-yl-2H-isoquinolin-1-one | 0.32 mmol, 0.103 mg | C(C1=CC=CC=C1)N1C(C2=CC=CC(=C2C=C1)N1CCNCC1)=O | C20H21N3O
